*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.2
* < ILD_dielectric_const = 3.6
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_0 1 2 3 4 REF
C_C1 1 REF 0.4540370993592pf
C_C2 1 2 17.088274287968pf
C_C3 1 3 0.0279666989361pf
C_C4 1 4 0.2355702229126pf
C_C5 2 REF 1.2100471987771pf
C_C6 2 3 0.1226340839897pf
C_C7 3 REF 0.5820508380362pf
C_C8 3 4 5.8028164651255pf
C_C9 4 REF 0.5875931637075pf
L_L1 3 5 1.2961505174666nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_1 1 2 3 4 REF
C_C1 1 REF 0.4028331680062pf
C_C2 1 2 17.487737470575pf
C_C3 1 3 0.0258881705887pf
C_C4 1 4 0.2395544057527pf
C_C5 2 REF 1.0782187117707pf
C_C6 2 3 0.1231854999359pf
C_C7 3 REF 0.5836202340664pf
C_C8 3 4 4.2905771872051pf
C_C9 4 REF 0.5866591679825pf
L_L1 3 5 1.2973652439792nh
R_RL1 5 4 2.0206744466e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_2 1 2 3 4 REF
C_C1 1 REF 0.3630419464863pf
C_C2 1 2 17.929522849609pf
C_C3 1 3 0.0237818854105pf
C_C4 1 4 0.244081185554pf
C_C5 2 REF 0.9660112378626pf
C_C6 2 3 0.123873294735pf
C_C7 3 REF 0.5850771301891pf
C_C8 3 4 3.2337820158316pf
C_C9 4 REF 0.5860657300941pf
L_L1 3 5 1.2983771937253nh
R_RL1 5 4 1.258748398e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_3 1 2 3 4 REF
C_C1 1 REF 0.3282316343209pf
C_C2 1 2 18.535296630889pf
C_C3 1 3 0.0211200614235pf
C_C4 1 4 0.2504970374993pf
C_C5 2 REF 0.8527043929349pf
C_C6 2 3 0.1249492886143pf
C_C7 3 REF 0.5867072283915pf
C_C8 3 4 2.3236463882449pf
C_C9 4 REF 0.5856556818561pf
L_L1 3 5 1.299401538887nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_4 1 2 3 4 REF
C_C1 1 REF 0.3034592278356pf
C_C2 1 2 19.319055441379pf
C_C3 1 3 0.0179332224354pf
C_C4 1 4 0.2590854759198pf
C_C5 2 REF 0.7506199282464pf
C_C6 2 3 0.1265373376274pf
C_C7 3 REF 0.5883550647721pf
C_C8 3 4 1.5935458384235pf
C_C9 4 REF 0.5854472570198pf
L_L1 3 5 1.3004254766624nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_5 1 2 3 4 REF
C_C1 1 REF 0.2922778590539pf
C_C2 1 2 20.172016168804pf
C_C3 1 3 0.0147045896564pf
C_C4 1 4 0.2687217220974pf
C_C5 2 REF 0.6786746969188pf
C_C6 2 3 0.1284895202721pf
C_C7 3 REF 0.5896779567774pf
C_C8 3 4 1.1099050238398pf
C_C9 4 REF 0.585409735191pf
L_L1 3 5 1.3012525309815nh
R_RL1 5 4 -1.448740932e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_6 1 2 3 4 REF
C_C1 1 REF 0.2897937601985pf
C_C2 1 2 21.09985408617pf
C_C3 1 3 0.0113833546182pf
C_C4 1 4 0.2794330273042pf
C_C5 2 REF 0.6301336143037pf
C_C6 2 3 0.1308298550928pf
C_C7 3 REF 0.5907039746076pf
C_C8 3 4 0.778249173031pf
C_C9 4 REF 0.5854500935345pf
L_L1 3 5 1.3019317611533nh
R_RL1 5 4 -2.195804154e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_7 1 2 3 4 REF
C_C1 1 REF 0.2928740400904pf
C_C2 1 2 22.298028848852pf
C_C3 1 4 0.2934645235806pf
C_C4 2 REF 0.5962361084737pf
C_C5 2 3 0.1341169616335pf
C_C6 3 REF 0.5915732670679pf
C_C7 3 4 0.5132545668499pf
C_C8 4 REF 0.5855331520534pf
L_L1 3 5 1.3025721057365nh
R_RL1 5 4 -2.911343927e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_8 1 2 3 4 REF
C_C1 1 REF 0.298674919495pf
C_C2 1 2 23.824558917151pf
C_C3 1 4 0.3114534806279pf
C_C4 2 REF 0.5788784874616pf
C_C5 2 3 0.1386066155932pf
C_C6 3 REF 0.5922220804646pf
C_C7 3 4 0.308865560809pf
C_C8 4 REF 0.5856374966485pf
L_L1 3 5 1.3031759832686nh
R_RL1 5 4 -3.556772708e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_9 1 2 3 4 REF
C_C1 1 REF 0.3029915093468pf
C_C2 1 2 25.813154374563pf
C_C3 1 4 0.3348458826247pf
C_C4 2 REF 0.5795784935011pf
C_C5 2 3 0.1448162501994pf
C_C6 3 REF 0.5926048571062pf
C_C7 3 4 0.1578874673665pf
C_C8 4 REF 0.5857605075032pf
L_L1 1 5 88.427023436414nh
R_RL1 5 2 7.7555671924279
L_L2 3 6 1.3036930124228nh
R_RL2 6 4 -4.03569029e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_10 1 2 3 4 REF
C_C1 1 REF 0.3007631905926pf
C_C2 1 2 28.414541906199pf
C_C3 1 4 0.3651811040395pf
C_C4 2 REF 0.5975215699688pf
C_C5 2 3 0.153319556382pf
C_C6 3 REF 0.59272443637pf
C_C7 3 4 0.0482795271503pf
C_C8 4 REF 0.5859187546159pf
L_L1 1 5 55.403744103374nh
R_RL1 5 2 4.3733993956207
L_L2 3 6 1.3041256608099nh
R_RL2 6 4 -4.295086046e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_11 1 2 3 4 REF
C_C1 1 REF 0.2861862630295pf
C_C2 1 2 31.952882181667pf
C_C3 1 4 0.4058747328677pf
C_C4 2 REF 0.6331079166639pf
C_C5 2 3 0.1653101822887pf
C_C6 3 REF 0.5925886910958pf
C_C7 4 REF 0.5861522219431pf
L_L1 1 5 34.438180511448nh
R_RL1 5 2 1.9525351997172
L_L2 3 6 1.3042639340081nh
R_RL2 6 4 -4.256411103e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_12 1 2 3 4 REF
C_C1 1 REF 0.2540998321527pf
C_C2 1 2 36.884892015043pf
C_C3 1 4 0.4617458668844pf
C_C4 2 REF 0.6864666601284pf
C_C5 2 3 0.1824499625773pf
C_C6 3 REF 0.5922300969005pf
C_C7 4 REF 0.5865097187575pf
L_L1 1 5 20.97378348203nh
R_RL1 5 2 0.5926207804587
L_L2 3 6 1.3040167311161nh
R_RL2 6 4 -3.883110276e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_13 1 2 3 4 REF
C_C1 1 REF 0.1968165860906pf
C_C2 1 2 44.226704778056pf
C_C3 1 4 0.543745703678pf
C_C4 2 REF 0.7620567900611pf
C_C5 2 3 0.2083992685805pf
C_C6 3 REF 0.5916589975751pf
C_C7 4 REF 0.5870699861171pf
L_L1 1 5 12.396132209454nh
R_RL1 5 2 0.0627051263482
L_L2 3 6 1.3035607022915nh
R_RL2 6 4 -3.151121291e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_14 1 2 3 4 REF
C_C1 1 REF 0.1027426185081pf
C_C2 1 2 55.829173393573pf
C_C3 1 4 0.6720006618834pf
C_C4 2 REF 0.8699858214545pf
C_C5 2 3 0.2497754836878pf
C_C6 3 REF 0.5908710346367pf
C_C7 4 REF 0.5879571383186pf
R_R1 1 2 920.8935601853
L_L1 1 5 7.0502573786235nh
R_RL1 5 2 0.0622379898432
L_L2 3 6 1.3028298225609nh
R_RL2 6 4 -2.061564555e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_15 1 2 3 4 REF
C_C1 1 2 76.566450599433pf
C_C2 1 4 0.8998011584184pf
C_C3 2 REF 1.0428988782089pf
C_C4 2 3 0.3239734006944pf
C_C5 3 REF 0.5897681957267pf
C_C6 4 REF 0.5895177887685pf
R_R1 1 2 296.33690179487
L_L1 1 5 3.576933601874nh
R_RL1 5 2 -0.343070800213
L_L2 3 6 1.3014911761502nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_16 1 2 3 4 REF
C_C1 1 2 124.50831987692pf
C_C2 1 4 1.4250625298292pf
C_C3 2 REF 1.4114830264146pf
C_C4 2 3 0.4954896933095pf
C_C5 3 REF 0.5878670170787pf
C_C6 4 REF 0.5931344095485pf
R_R1 1 2 99.210915382823
L_L1 1 5 1.4920393889477nh
R_RL1 5 2 -0.171447592121
L_L2 1 6 64.634494473129nh
R_RL2 6 3 -0.217414122756
L_L3 1 7 63.893533124742nh
R_RL3 7 4 -0.218123391403
L_L4 2 8 64.731564785176nh
R_RL4 8 3 0.0186051133057
L_L5 2 9 63.993535279623nh
R_RL5 9 4 0.0182512603666
L_L6 3 10 1.2984824628442nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 0.0710251668111
Kn_K2 L_L1 L_L3 0.0712856739753
Kn_K3 L_L1 L_L4 -0.080849192427
Kn_K4 L_L1 L_L5 -0.081464088937
Kn_K5 L_L2 L_L3 0.9899137316687
Kn_K6 L_L2 L_L4 0.9884668096178
Kn_K7 L_L2 L_L5 0.978294844533
Kn_K8 L_L2 L_L6 -0.111309319192
Kn_K9 L_L3 L_L4 0.9783485562384
Kn_K10 L_L3 L_L5 0.9883334510281
Kn_K11 L_L3 L_L6 0.0306044675221
Kn_K12 L_L4 L_L5 0.9899290188819
Kn_K13 L_L4 L_L6 -0.111065934242
Kn_K14 L_L5 L_L6 0.0307413597757
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_17 1 2 3 4 REF
C_C1 1 2 295.09949859913pf
C_C2 1 4 3.2931578505572pf
C_C3 2 REF 2.6731630810625pf
C_C4 2 3 1.105241102299pf
C_C5 3 REF 0.5826901485721pf
C_C6 4 REF 0.6064084688261pf
R_R1 1 2 21.877673734455
L_L1 1 5 50.286118538628nh
R_RL1 5 REF -1.465432240909
L_L2 1 6 0.4279138684873nh
R_RL2 6 2 -0.077073305066
L_L3 1 7 21.576609992432nh
R_RL3 7 3 -0.072499778625
L_L4 1 8 20.88586272483nh
R_RL4 8 4 -0.073761335078
L_L5 2 9 49.971890357797nh
R_RL5 9 REF -1.33955081356
L_L6 2 10 21.651961899216nh
R_RL6 10 3 0.0039879964071
L_L7 2 11 20.965219372113nh
R_RL7 11 4 0.003840534706
L_L8 3 12 71.354687312543nh
R_RL8 12 REF -1.373267733975
L_L9 3 13 1.2879684370173nh
R_RL9 13 4 2.2074514672e-5
L_L10 4 14 70.654695918538nh
R_RL10 14 REF -1.372061201457
Kn_K1 L_L1 L_L2 0.0799935195167
Kn_K2 L_L1 L_L5 0.9957367641242
Kn_K3 L_L1 L_L8 0.8352440737349
Kn_K4 L_L1 L_L10 0.8392938057894
Kn_K5 L_L2 L_L3 0.0580143821702
Kn_K6 L_L2 L_L4 0.0582961264246
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.08266860199
Kn_K9 L_L2 L_L7 -0.084680173319
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9697964011387
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9901026375244
Kn_K15 L_L3 L_L7 0.959670970282
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.187676194665
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9599120327227
Kn_K21 L_L4 L_L7 0.9897771006295
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0575739966406
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8346039420406
Kn_K26 L_L5 L_L10 0.8386165690005
Kn_K27 L_L6 L_L7 0.9699041227883
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.186970162104
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.057850268229
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1036844779263
Kn_K35 L_L8 L_L10 0.9909424375506
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_18 1 2 3 4 REF
C_C1 1 2 6353.9573102196pf
C_C2 1 4 69.414086021957pf
C_C3 2 REF 48.202909629894pf
C_C4 2 3 23.001180578539pf
C_C5 3 REF 0.4177537648299pf
C_C6 3 4 0.0640188782647pf
C_C7 4 REF 1.102884368492pf
R_R1 1 REF -14.33486304096
R_R2 1 2 0.0909617775732
R_R3 1 3 -27.16868089523
R_R4 1 4 8.1390967538323
R_R5 2 REF 14.352365357307
R_R6 2 3 27.211912155157
R_R7 2 4 -8.150938289742
L_L1 1 5 1.4902590676434nh
R_RL1 5 REF -2.173414553e-3
L_L2 1 6 0.0111817633421nh
R_RL2 6 2 -0.019333672546
L_L3 1 7 1.325453511907nh
R_RL3 7 3 -7.082130731e-3
L_L4 1 8 0.8208289428786nh
R_RL4 8 4 -0.013624454978
L_L5 2 9 1.4798486911553nh
R_RL5 9 REF -0.016682153554
L_L6 2 10 1.3271124987066nh
R_RL6 10 3 -2.94838584e-3
L_L7 2 11 0.8276786357862nh
R_RL7 11 4 -4.804067182e-4
L_L8 3 12 2.8035194502875nh
R_RL8 12 REF -6.501865474e-3
L_L9 3 13 0.9882921699351nh
R_RL9 13 4 -1.024498428e-3
L_L10 4 14 2.2936179319395nh
R_RL10 14 REF -0.011878806688
Kn_K1 L_L1 L_L2 0.0836333809182
Kn_K2 L_L1 L_L5 0.9962413527314
Kn_K3 L_L1 L_L8 0.726103920691
Kn_K4 L_L1 L_L10 0.8013408370971
Kn_K5 L_L2 L_L3 0.0391107549856
Kn_K6 L_L2 L_L4 0.0226091395556
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.05270494712
Kn_K9 L_L2 L_L7 -0.09371622492
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.024688722554
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.5550937523508
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.995784743265
Kn_K16 L_L3 L_L7 0.5482461550274
Kn_K17 L_L3 L_L8 0.7699232210043
Kn_K18 L_L3 L_L9 -0.652199804765
Kn_K19 L_L3 L_L10 0.8497005743101
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.55267136899
Kn_K22 L_L4 L_L7 0.9932256124917
Kn_K23 L_L4 L_L8 0.9783704735333
Kn_K24 L_L4 L_L9 0.2685022892885
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7256906846207
Kn_K27 L_L5 L_L10 0.7994702311583
Kn_K28 L_L6 L_L7 0.5565057034764
Kn_K29 L_L6 L_L8 0.7663132502108
Kn_K30 L_L6 L_L9 -0.649525820102
Kn_K31 L_L6 L_L10 0.844222813203
Kn_K32 L_L7 L_L8 0.9703520596122
Kn_K33 L_L7 L_L9 0.270258557164
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.4500321114815
Kn_K36 L_L8 L_L10 0.8101724312469
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_19 1 2 3 4 REF
C_C1 1 REF 46.770873943744pf
C_C2 1 3 22.417514024637pf
C_C3 2 4 67.744320812452pf
C_C4 3 REF 0.755385669253pf
C_C5 4 REF 0.0752000439931pf
R_R1 1 REF 17.627412332907
R_R2 1 2 -0.109263421252
R_R3 1 3 32.961642988622
R_R4 1 4 -9.748310981691
R_R5 2 REF -17.67994086741
R_R6 2 3 -33.02259522993
R_R7 2 4 9.7645497322808
L_L1 1 5 1.2793061779459nh
R_RL1 5 REF -2.362677639e-3
L_L2 1 6 0.0012992799092nh
R_RL2 6 2 0.1074998151252
L_L3 1 7 1.1792128549629nh
R_RL3 7 3 0.0323872907787
L_L4 1 8 0.6993668891119nh
R_RL4 8 4 0.0733466470913
L_L5 2 9 1.2647731451318nh
R_RL5 9 REF 0.1089092977739
L_L6 2 10 1.1818256503364nh
R_RL6 10 3 0.0218506002279
L_L7 2 11 0.7112578647141nh
R_RL7 11 4 0.0032387895564
L_L8 3 12 2.451788661084nh
R_RL8 12 REF 0.0322969444311
L_L9 3 13 0.9425033487176nh
R_RL9 13 4 0.008276084274
L_L10 4 14 1.9777929430962nh
R_RL10 14 REF 0.074201446019
Kn_K1 L_L1 L_L2 0.194167149003
Kn_K2 L_L1 L_L5 0.9995056010381
Kn_K3 L_L1 L_L8 0.7204466487302
Kn_K4 L_L1 L_L10 0.8039840271694
Kn_K5 L_L2 L_L3 -0.016778677652
Kn_K6 L_L2 L_L4 -0.175683754439
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.049917076337
Kn_K9 L_L2 L_L7 -0.216949328613
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.132568394385
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.5153860535112
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9994503118005
Kn_K16 L_L3 L_L7 0.5117768488926
Kn_K17 L_L3 L_L8 0.7504002527173
Kn_K18 L_L3 L_L9 -0.674588166684
Kn_K19 L_L3 L_L10 0.8374108176255
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.52064116577
Kn_K22 L_L4 L_L7 0.9991144310858
Kn_K23 L_L4 L_L8 0.9743983513984
Kn_K24 L_L4 L_L9 0.2849282538709
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7197056798606
Kn_K27 L_L5 L_L10 0.800236405528
Kn_K28 L_L6 L_L7 0.5184041938326
Kn_K29 L_L6 L_L8 0.7445340120353
Kn_K30 L_L6 L_L9 -0.669446495528
Kn_K31 L_L6 L_L10 0.8278428783554
Kn_K32 L_L7 L_L8 0.9597269870856
Kn_K33 L_L7 L_L9 0.2882024827396
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.4659113924988
Kn_K36 L_L8 L_L10 0.7917713273732
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_20 1 2 3 4 REF
C_C1 1 2 209.5271240179pf
C_C2 1 4 2.3526137661221pf
C_C3 2 REF 2.0363419760121pf
C_C4 2 3 0.7986629805501pf
C_C5 3 REF 0.5825778818223pf
C_C6 4 REF 0.5967580544232pf
R_R1 1 2 -30.06215250652
L_L1 1 5 46.030226152939nh
R_RL1 5 REF -2.634525432868
L_L2 1 6 0.1950155015367nh
R_RL2 6 2 0.0256060877092
L_L3 1 7 17.633090029061nh
R_RL3 7 3 -4.428454816e-3
L_L4 1 8 16.927601798883nh
R_RL4 8 4 -3.936864804e-3
L_L5 2 9 45.55361195154nh
R_RL5 9 REF -2.459147849031
L_L6 2 10 17.770116361085nh
R_RL6 10 3 0.0090252894563
L_L7 2 11 17.072765694499nh
R_RL7 11 4 0.008278647577
L_L8 3 12 63.306976542742nh
R_RL8 12 REF -2.571695391458
L_L9 3 13 1.2822116779981nh
R_RL9 13 4 5.9746714588e-5
L_L10 4 14 62.589452422148nh
R_RL10 14 REF -2.570740709403
Kn_K1 L_L1 L_L2 0.1120840402798
Kn_K2 L_L1 L_L5 0.9978841470278
Kn_K3 L_L1 L_L8 0.8493984744308
Kn_K4 L_L1 L_L10 0.8541412246732
Kn_K5 L_L2 L_L3 0.015635728253
Kn_K6 L_L2 L_L4 0.0137188236464
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.089183210985
Kn_K9 L_L2 L_L7 -0.093216223517
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9631003891334
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9944990354726
Kn_K15 L_L3 L_L7 0.9573260981929
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.209014658824
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9579427795031
Kn_K21 L_L4 L_L7 0.9942733740278
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0618956363221
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8481169875712
Kn_K26 L_L5 L_L10 0.8527756287219
Kn_K27 L_L6 L_L7 0.9633931538481
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.207354845536
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.062501562019
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1109780207989
Kn_K35 L_L8 L_L10 0.9898314212424
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_21 1 2 3 4 REF
C_C1 1 REF 0.0843172532583pf
C_C2 1 2 57.545146109034pf
C_C3 1 4 0.6840348266842pf
C_C4 2 REF 0.9251816917361pf
C_C5 2 3 0.2567753520264pf
C_C6 3 REF 0.5857174622005pf
C_C7 4 REF 0.5834390158307pf
R_R1 1 2 -257.2062211034
L_L1 1 5 0.6158060689435nh
R_RL1 5 2 -0.277979271484
L_L2 1 6 63.972641906434nh
R_RL2 6 3 -0.093661156367
L_L3 1 7 63.105858384094nh
R_RL3 7 4 -0.09137461318
L_L4 2 8 64.755096192561nh
R_RL4 8 3 -0.587236370729
L_L5 2 9 63.895319012801nh
R_RL5 9 4 -0.580305167613
L_L6 3 10 1.2944114969349nh
R_RL6 10 4 1.4759577425e-5
Kn_K1 L_L1 L_L2 -0.013275520287
Kn_K2 L_L1 L_L3 -0.013928340463
Kn_K3 L_L1 L_L4 -0.110713120016
Kn_K4 L_L1 L_L5 -0.112013986813
Kn_K5 L_L2 L_L3 0.9898371053968
Kn_K6 L_L2 L_L4 0.9952345984893
Kn_K7 L_L2 L_L5 0.9850064013981
Kn_K8 L_L2 L_L6 -0.11874918518
Kn_K9 L_L3 L_L4 0.9851969528218
Kn_K10 L_L3 L_L5 0.9951704055153
Kn_K11 L_L3 L_L6 0.0236572953796
Kn_K12 L_L4 L_L5 0.9899606438204
Kn_K13 L_L4 L_L6 -0.117646926497
Kn_K14 L_L5 L_L6 0.0238958957974
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_22 1 2 3 4 REF
C_C1 1 REF 0.3372334936587pf
C_C2 1 2 24.678009041785pf
C_C3 1 3 0.0172264967835pf
C_C4 1 4 0.3206322788493pf
C_C5 2 REF 0.6848391137028pf
C_C6 2 3 0.1379392299453pf
C_C7 3 REF 0.5859882236272pf
C_C8 4 REF 0.579918537809pf
L_L1 1 5 0.9407165499833nh
R_RL1 5 2 -0.026691997092
L_L2 3 6 1.296216160883nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_23 1 2 3 4 REF
C_C1 1 REF 0.4297724244965pf
C_C2 1 2 13.31808196252pf
C_C3 1 3 0.0631293853336pf
C_C4 1 4 0.1941026917631pf
C_C5 2 REF 0.6078171645721pf
C_C6 2 3 0.0948207113009pf
C_C7 3 REF 0.585413623945pf
C_C8 4 REF 0.577984934732pf
L_L1 1 5 1.3075443576024nh
R_RL1 5 2 -2.439238701e-3
L_L2 3 6 1.2941268841221nh
R_RL2 6 4 -1.495657739e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_24 1 2 3 4 REF
C_C1 1 REF 0.4688520918804pf
C_C2 1 2 8.646672721756pf
C_C3 1 3 0.0874772306251pf
C_C4 1 4 0.1414433255589pf
C_C5 2 REF 0.5849591857224pf
C_C6 2 3 0.0745525947681pf
C_C7 2 4 0.0312574187887pf
C_C8 3 REF 0.5838093200626pf
C_C9 4 REF 0.5756788474496pf
L_L1 1 5 1.7394401771034nh
R_RL1 5 2 -2.805252315e-3
L_L2 3 6 1.2916697966207nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_25 1 2 3 4 REF
C_C1 1 REF 0.4911951507269pf
C_C2 1 2 6.7791731055974pf
C_C3 1 3 0.105670873087pf
C_C4 1 4 0.1164779522659pf
C_C5 2 REF 0.5835290345294pf
C_C6 2 3 0.0613815435735pf
C_C7 2 4 0.0614870667362pf
C_C8 3 REF 0.5817972931163pf
C_C9 4 REF 0.5731637145301pf
L_L1 1 5 1.8928610573593nh
R_RL1 5 2 -4.606363552e-4
L_L2 3 6 1.2885379362147nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_26 1 2 3 4 REF
C_C1 1 REF 0.5010803728567pf
C_C2 1 2 6.4019675235573pf
C_C3 1 3 0.1179221716524pf
C_C4 1 4 0.1072509165657pf
C_C5 2 REF 0.5903407539485pf
C_C6 2 3 0.0530171624279pf
C_C7 2 4 0.0749121390962pf
C_C8 3 REF 0.5802609648223pf
C_C9 4 REF 0.5712087025836pf
L_L1 1 5 1.9233467502nh
R_RL1 5 2 5.975660439e-5
L_L2 3 6 1.2872016536726nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param13_26

